US07863283B2
(6-Bromo-4-methoxyquinazolin-4-yl)isopropylamine
6-Bromo-7-methoxy-3H-quinazolin-4-one (1.01 g, 3.96 mmol) and N,N-(diisopropyl-ethylamine (1.78 ml, 10.4 mmol) are introduced into 1,2-dichloroethane (19 ml), treated dropwise with POCl3 (0.46 ml, 4.95 mmol) and then stirred at 80° C. for 2 h. The reaction mixture is subsequently concentrated to dryness. The residue is taken up in isopropanol (10 ml), treated with isopropylamine (0.34 ml, 3.96 mmol) and stirred for 30 minutes at 80° C. After cooling to room temperature, the resulting precipitate is filtered off with suction and dried in vacuo. The desired product is obtained in 46% yield (530 mg).

reactant | 6-Bromo-7-methoxy-3H-quinazolin-4-one | 3.96 mmol, 1.01 g | BrC=1C=C2C(NC=NC2=CC1OC)=O | C9H7BrN2O2
reactant | diisopropyl-ethylamine | 10.4 mmol, 1.78 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | POCl3 | 4.95 mmol, 0.46 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | isopropylamine | 3.96 mmol, 0.34 ml | C(C)(C)N | C3H9N
solvent | 1,2-dichloroethane | 19 ml | ClCCCl | C2H4Cl2
product | (6-Bromo-4-methoxyquinazolin-4-yl)isopropylamine | 46% yield | BrC=1C=C2C(NC=NC2=CC1)(OC)NC(C)C | C12H16BrN3O
